US08071592B2
(a) 1,1-Dimethylethyl {1-[2-(7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl]-4-piperidinyl}carbamate
A mixture of (7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde (as the methyl hemiacetal) (1.09 g, 5.291 mmol) and 1,1-dimethylethyl 4-piperidinylcarbamate (1.06 g, 5.291 mmol) in chloroform (50 ml) and MeOH (2.5 ml) was stirred for 2 h before addition of NaBH(OAc)3 (3.37 g, 15.873 mmol). The reaction was stirred for 0.5 h before addition of sat. aq NaHCO3 (50 ml). The reaction was then extracted with 20% MeOH in DCM (3×200 ml). The combined organic phases were dried, evaporated and the crude residue purified by chromatography on silica gel using a 0-20% MeOH/DCM gradient to provide the desired compound (1.591 g, 77%).

reactant | (7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde | FC1=CN=C2C=CC(N(C2=C1)CC=O)=O | C10H7FN2O2
reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | 5.291 mmol, 1.06 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | NaBH(OAc)3 | 15.873 mmol, 3.37 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 2.5 ml | CO | CH4O
product | 1,1-Dimethylethyl {1-[2-(7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl]-4-piperidinyl}carbamate | 1.591 g, 77% | FC1=CN=C2C=CC(N(C2=C1)CCN1CCC(CC1)NC(OC(C)(C)C)=O)=O | C20H27FN4O3
